US07368578B2
To a mixture of 3-{4-[(4-{[(4-formyl-1-phenyl-1H-pyrazol-3-yl)oxy]methyl}-2-methoxyphenoxy)methyl]-5-ethyl-1,3-oxazol-2-yl}phenyl methanesulfonate (0.20 g), tetrahydrofuran (2 mL) and ethanol (2 mL) was added 1N aqueous sodium hydroxide solution (2 mL), and the mixture was stirred at 60° C. for 1 hr. To the reaction mixture was added dilute hydrochloric acid to acidify the solution, and the precipitated crystals were collected by filtration to give 3-[(4-{[2-(3-hydroxyphenyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazole-4-carbaldehyde as colorless crystals (0.10 g, yield 59%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 193-194° C.

reactant | 3-{4-[(4-{[(4-formyl-1-phenyl-1H-pyrazol-3-yl)oxy]methyl}-2-methoxyphenoxy)methyl]-5-ethyl-1,3-oxazol-2-yl}phenyl methanesulfonate | 0.20 g | CS(=O)(=O)OC1=CC(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=C1)COC1=NN(C=C1C=O)C1=CC=CC=C1)OC)CC | C31H29N3O8S
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 2 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-[(4-{[2-(3-hydroxyphenyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazole-4-carbaldehyde | 0.10 g, yield 59% | OC=1C=C(C=CC1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2C=O)C2=CC=CC=C2)C=C1)OC)C | C29H25N3O6
